US04101590
As a result, 3.5 liters of a toluene solution containing 1.5 mols of a vinylphenol mixture of 37.0 mol% o-vinylphenol, 24.7 mol% m-vinylphenol, 36.9 mol% p-vinylphenol and 1.4 mol% ethylphenol was obtained as the extract. As the raffinate, 10.4 liters of a toluene solution containing 2.6 mols of an ethylphenol mixture of 9.9 mol% o-ethylphenol, 4.0 mol% m-ethylphenol, 85.1 mol% p-ethylphenol and 1.0 mol% vinylphenol was obtained.

reactant | ethylphenol | 2.6 mols | C(C)C1=C(C=CC=C1)O | C8H10O
reactant | m-ethylphenol | C(C)C=1C=C(C=CC1)O | C8H10O
reactant | p-ethylphenol | C(C)C1=CC=C(C=C1)O | C8H10O
solvent | toluene | 10.4 liters | C1(=CC=CC=C1)C | C7H8
product | vinylphenol | C(=C)C1=C(C=CC=C1)O | C8H8O
